US05344937
To a solution of the above amine in 10 mL of anhydrous DMF was added (R)-[(2-sulfobenzoyl)amino-1H-imidazol-1-yl]-octanoic acid (1.00 g, 2.45 mmol) and hydroxybenzotriazole (0.37 g, 2.77 mmol). This mixture was cooled to 0° C., and then treated with dicyclohexylcarbodiimide (0.56 g, 2.70 mmol). The resulting solution was warmed to room temperature and stirred for 48 hours. After removal of dicyclohexylurea by filtration, the filtrate was diluted with 100 mL of ethyl acetate and washed several times with H2O. The organic was then dried (Na2SO4) and concentrated in vacuo to an oil. Chromatography (SiO2, 5% methanol/CHCl3) provided 0.84 g (34%) of (R)-1-[1-oxo-2-[4-(2-sulfobenzoyl)amino-1H-imidazol-1-yl]octyl]-4-(cis)-methanesulfonamido))-phenoxy]-L-proline methyl ester as a white solid. M.Pt. 150° C. (dec).

reactant | (R)-[(2-sulfobenzoyl)amino-1H-imidazol-1-yl]-octanoic acid | 2.45 mmol, 1.00 g | S(=O)(=O)(O)C1=C(C(=O)NC=2N(C=CN2)[C@@H](C(=O)O)CCCCCC)C=CC=C1 | C18H23N3O6S
reactant | hydroxybenzotriazole | 2.77 mmol, 0.37 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 2.70 mmol, 0.56 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | L-proline methyl ester | COC([C@H]1NCCC1)=O | C6H11NO2
